US09278931B2
B) 4-(benzoylamino)-N-(4-{trans-2-[(cyclopropylmethyl)amino]-cyclopropyl}phenyl)benzamide hydrochloride
tert-Butyl [trans-2-(4-{[4-(benzoylamino)benzoyl]amino}phenyl)cyclopropyl]-(cyclopropylmethyl)carbamate (98.0 mg) was dissolved in 4N hydrochloric acid/cyclopentyl methyl ether solution (1 mL), and the mixture was stirred at room temperature for 2 hr. The solvent was evaporated under reduced pressure. The residue was recrystallized from methanol/diisopropyl ether to give the title compound (44.6 mg).

reactant | tert-Butyl [trans-2-(4-{[4-(benzoylamino)benzoyl]amino}phenyl)cyclopropyl]-(cyclopropylmethyl)carbamate | 98.0 mg | C(C1=CC=CC=C1)(=O)NC1=CC=C(C(=O)NC2=CC=C(C=C2)[C@H]2[C@@H](C2)N(C(OC(C)(C)C)=O)CC2CC2)C=C1 | C32H35N3O4
reactant | hydrochloric acid cyclopentyl methyl ether | 4N, 1 mL | Cl.COC1CCCC1
product | 4-(benzoylamino)-N-(4-{trans-2-[(cyclopropylmethyl)amino]-cyclopropyl}phenyl)benzamide hydrochloride | 44.6 mg | Cl.C(C1=CC=CC=C1)(=O)NC1=CC=C(C(=O)NC2=CC=C(C=C2)[C@H]2[C@@H](C2)NCC2CC2)C=C1 | InChI=1S/C27H27N3O2.ClH/c31-26(20-4-2-1-3-5-20)29-23-14-10-21(11-15-23)27(32)30-22-12-8-19(9-13-22)24-16-25(24)28-17-18-6-7-18;/h1-5,8-15,18,24-25,28H,6-7,16-17H2,(H,29,31)(H,30,32);1H/t24-,25+;/m0./s1
